US07326706B2
Methyl 5,6-bis-(4-methylphenyl)pyrazin-2-carboxylate
Methyl 2,3-diaminopropionate example 1A (2.4 g, 12.6 mmol) was shaken vigorously for 5 min in a solution of KOH (2.1 g, 37.7 mmol) in 20 mL of MeOH. The resulting milky solution was filtered to remove the solids, and the filtrate was added to a solution of 4,4′-dimethylbenzil (4.48 g, 18.8 mmol) in 20 mL of MeOH. The resulting mixture was heated to 65° C. for 14 h with a reflux condenser open to air. Solvent was evaporated and the residue was dissolved in 300 mL of EtOAc and 200 mL of 1N HCl. The layers were extracted and the organic layer was evaporated to give a thick oil that was redissolved in 5 mL of CH2Cl2 and this solution was loaded onto dry 120 g silica cartridge. The solvent was evaporated with a stream of N2, and the desired product example 1B was eluted with a gradient of 0-40% EtOAc/hexanes to give 1.71 g of a yellow solid.

reactant | Methyl 2,3-diaminopropionate | NC(C(=O)OC)CN | C4H10N2O2
reactant | KOH | 37.7 mmol, 2.1 g | [OH-].[K+]
reactant | 4,4′-dimethylbenzil | 18.8 mmol, 4.48 g | CC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)C | C16H14O2
solvent | MeOH | 20 mL | CO | CH4O
solvent | MeOH | 20 mL | CO | CH4O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | Methyl 5,6-bis-(4-methylphenyl)pyrazin-2-carboxylate | 1.71 g | CC1=CC=C(C=C1)C=1N=CC(=NC1C1=CC=C(C=C1)C)C(=O)OC | C20H18N2O2
